US06255496B1
(Z)-4-[4-[2-(Dodecylsulfonyl)ethoxy]phenyl]-1,1,1-trifluoro2-acetoxy-2-butene
A solution of 4-[4-[2-(dodecylsulfonyl)ethoxy]phenyl]-1,1,1-trifluoro-2-butanone (1.10 g, 2.30 mmol) in dichloromethane (15 ml) was cooled to −25° C. and treated with triethylamine (0.5 ml) and 4-dimethylaminopyridine (0.560 g, 4.58 mmol). Then acetic anhydride (0.65 ml, 6.9 mmol) was added and the resulting mixture was stirred at −25° C. for 2.5 h. The solution was then diluted with ethyl acetate, washed with saturated sodium bicarbonate, dried (magnesium sulfate) and evaporated in vacuo. The residue was chromatographed on silica gel (elution toluene-ethyl acetate, 9:1) to give 0.94 g (78%) of a solid which was recrystallized from hexane to give white crystals: mp 48-49° C.

reactant | 4-[4-[2-(dodecylsulfonyl)ethoxy]phenyl]-1,1,1-trifluoro-2-butanone | 2.30 mmol, 1.10 g | C(CCCCCCCCCCC)S(=O)(=O)CCOC1=CC=C(C=C1)CCC(C(F)(F)F)=O | C24H37F3O4S
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 6.9 mmol, 0.65 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 4.58 mmol, 0.560 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (Z)-4-[4-[2-(Dodecylsulfonyl)ethoxy]phenyl]-1,1,1-trifluoro2-acetoxy-2-butene | 0.94 g, 78% | C(CCCCCCCCCCC)S(=O)(=O)CCOC1=CC=C(C=C1)C\C=C(\C(F)(F)F)/OC(C)=O | C26H39F3O5S
